US08048887B2
5-(3-((Cis)-2-(4-chlorophenyl)cyclopentylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
In a 1 dram vial were combined 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (20 mg, 0.051 mmol), cis-2-(4-chlorophenyl)cyclopentanamine (14 mg, 0.072 mmol), and HATU (31 mg, 0.082 mmol). DMF (0.4 mL) and DIPEA (50 μL, 0.29 mmol) were added, and the vial was capped and stirred at r.t. for 2 h, then diluted with MeOH, filtered, and purify directly by prep HPLC. Concentration afforded the title compound (15 mg, 52% yield) as a fluffy white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.47-8.59 (m, 1H) 8.06 (d, J=8.85 Hz, 1H) 7.97-8.03 (m, 2H) 7.86 (d, J=1.83 Hz, 1H) 7.75-7.82 (m, 2H) 7.68 (s, 1H) 7.65 (dd, J=8.55, 1.83 Hz, 1H) 7.45-7.53 (m, 2H) 7.40 (t, J=8.85 Hz, 2H) 7.27 (s, 4H) 4.60-4.71 (m, J=7.67, 7.67, 7.55, 7.32 Hz, 1H) 3.33-3.41 (m, 1H) 2.87 (d, J=4.58 Hz, 3H) 1.99-2.15 (m, 3H) 1.89-1.98 (m, 1H) 1.72-1.82 (m, 1H) 1.57-1.71 (m, 1H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. LC/MS method: solvent A=10% CH3CN/90% H2O/0.1% TFA, solvent B=90% CH3CN/10% H2O/0.1% TFA, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=4 ml/min, column: Sunfire C18 5 μm 4.6×50 mm; HPLC Rt=2.02 min, (ES+) m/z (MH+)=567. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=15.42 min, purity=98%; column: Waters XBridge phenyl 3.5 μm 4.6×150 mm, Rt=13.74 min, purity=97%.

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.051 mmol, 20 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
reactant | cis-2-(4-chlorophenyl)cyclopentanamine | 0.072 mmol, 14 mg | ClC1=CC=C(C=C1)[C@@H]1[C@@H](CCC1)N | C11H14ClN
reactant | HATU | 0.082 mmol, 31 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.29 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 5-(3-((Cis)-2-(4-chlorophenyl)cyclopentylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 15 mg, 52% yield | ClC1=CC=C(C=C1)[C@@H]1[C@@H](CCC1)NC(=O)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C34H28ClFN2O3
